US05703092
(e) Methyl 2(R)-amino-4-(p-toluenesulfonylamino)butyrate hydrochloride
Methyl 2(R)-(N-butyloxycarbonylamino)-4-(p-toluenesulfonylamino)butyrate (2.0 g, 5.18 mmol) was dissolved in 10 mL 4N HCl in dioxane and the solution was stirred for 1 hour and then concentrated. The residue was triturated with ether to give 1.16 g (70%) product. ES-MS: calcd M+1 287.2; found 287.0.

reactant | Methyl 2(R)-(N-butyloxycarbonylamino)-4-(p-toluenesulfonylamino)butyrate | 5.18 mmol, 2.0 g | C(CCC)OC(=O)N[C@@H](C(=O)OC)CCNS(=O)(=O)C1=CC=C(C=C1)C | C17H26N2O6S
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 2(R)-amino-4-(p-toluenesulfonylamino)butyrate hydrochloride | 1.16 g, 70% | Cl.N[C@@H](C(=O)OC)CCNS(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C12H18N2O4S.ClH/c1-9-3-5-10(6-4-9)19(16,17)14-8-7-11(13)12(15)18-2;/h3-6,11,14H,7-8,13H2,1-2H3;1H/t11-;/m1./s1
